USRE029875
5-allyl-5-ethylbarbituric acid
The composition of claim 1 containing 4 to 25 mg. of ephedrine hydrochloride or ephedrine sulfate and from 2 to 15 mg. of butabarbital per 5 milliliters of elixir.

reactant | ephedrine hydrochloride | C[C@@H]([C@@H](C=1C=CC=CC1)O)NC.Cl
reactant | ephedrine sulfate | C[C@@H]([C@@H](C=1C=CC=CC1)O)NC.C[C@@H]([C@@H](C=1C=CC=CC1)O)NC.OS(=O)(=O)O
reactant | butabarbital | CCC(C)C1(C(=O)NC(=O)NC1=O)CC | C10H16N2O3
product | 5-allyl-5-ethylbarbituric acid | C(C=C)C1(C(NC(NC1=O)=O)=O)CC | C9H12N2O3
